US05338853
Preparation of 1-[N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamoyl]-2-[N-(3,5-di-t-butyl-4-hydroxyphenyl)oxamoyl]hydrazine
Into a 3-necked 300 ml flask was introduced a 58% solution of methyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate in methanol (8.3 g, 0.02 mole), N-(3,5-di-t-butyl-4-hydroxyphenyl)-N'-aminooxamide (6.1 g, 0.02 mole) and 100 ml of anhydrous methanol. The flask was equipped with a magnetic stirrer, a thermometer and a Dean Stark trap containing a reflux condenser. The reaction mixture was heated in an oil bath to reflux for 31/2 hours. At this point, the Dean Stark trap was periodically drained until 40 ml of methanol was collected and solid material formed in the reaction mixture. An additional 10 ml of methanol was distilled from the reaction mixture. The reaction mixture was cooled to 15° C. and the resulting thick slurry was filtered. The filter cake was rinsed with 20 ml of cold methanol and air dried. The product was a white solid weighing 6.2 grams and had a melting range of 196°-202° C. The infrared scan (nujol mull) contained sharp carbonyl bands at 1665, 1585 and 1510 cm-1.

reactant | methyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate | CC1(NC(CC(C1)NC(C(=O)OC)=O)(C)C)C | C12H22N2O3
reactant | N-(3,5-di-t-butyl-4-hydroxyphenyl)-N'-aminooxamide | 0.02 mole, 6.1 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NC(=O)C(=O)NN | C16H25N3O3
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 0.02 mole, 8.3 g | CO | CH4O
product | 1-[N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamoyl]-2-[N-(3,5-di-t-butyl-4-hydroxyphenyl)oxamoyl]hydrazine | CC1(NC(CC(C1)NC(C(=O)NNC(C(=O)NC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)=O)(C)C)C | C27H43N5O5
